US09375010B2
To a solution of (1Z,2Z)-2-{[(6-aminopyridin-2-yl)methoxy]imino}-N′-hydroxy-2-phenylethanimidamide (3 g, 10.51 mmol, 1 eq.) in DMF (50 ml) was added CDI (1.70 g, 10.51 mmol, 1 eq.) and stirring at room temperature was allowed for 30 min before heated to 80° C. for 6 h. The reaction was quenched by addition of water and extracted with EtOAc (3×50 ml). The organics were combined, washed with aq. sat. NaCl, dried over MgSO4 and concentrated. The residue was triturated in MeCN and a white solid was isolated by filtration giving a first crop of 3-[(Z)-{[(6-aminopyridin-2-yl)methoxy]imino}(phenyl)methyl]-1,2,4-oxadiazol-5(4H)-one (1.36 g, 36% yield). The mother liquor was concentrated and purified by chromatography on silica gel to give a second crop (2.9 g, 50% purity, 40% yield).

reactant | (1Z,2Z)-2-{[(6-aminopyridin-2-yl)methoxy]imino}-N′-hydroxy-2-phenylethanimidamide | 10.51 mmol, 3 g, 1 eq. | NC1=CC=CC(=N1)CO\N=C(/C(/N)=N/O)\C1=CC=CC=C1 | C14H15N5O2
reactant | CDI | 10.51 mmol, 1.70 g, 1 eq. | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-[(Z)-{[(6-aminopyridin-2-yl)methoxy]imino}(phenyl)methyl]-1,2,4-oxadiazol-5(4H)-one | 1.36 g, 36% yield | NC1=CC=CC(=N1)CO\N=C(/C1=NOC(N1)=O)\C1=CC=CC=C1 | C15H13N5O3
